US06005000
A total of 3.4 mL (10.2 mmol) of 3.0 M phenylmagnesium bromide was added to a solution of 2.4 g (10 mmol) of ethyl 4-phenylbenzoylformate in THF in an analogous manner as described for the synthesis of 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone to give prior to hydrogenolysis 0.88 g (20% yield) of 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-phenyl-2(5H)-furanone as an off white solid: mp 190-195° C. (CHCl3 /hexanes).

reactant | phenylmagnesium bromide | 10.2 mmol, 3.0 M, 3.4 mL | C1(=CC=CC=C1)[Mg]Br
reactant | ethyl 4-phenylbenzoylformate | 10 mmol, 2.4 g | C1(=CC=CC=C1)C1=CC=C(C(=O)C(=O)OCC)C=C1 | C16H14O3
reactant | 3,4-dihydroxy-5-methyl-5-phenyl-2(5H)-furanone | OC=1C(OC(C1O)(C1=CC=CC=C1)C)=O | C11H10O4
solvent | THF | C1CCOC1 | C4H8O
product | 5-[(1,1'-biphenyl)-4-yl]-4-hydroxy-3-phenylmethoxy-5-phenyl-2(5H)-furanone | 0.88 g, 20% yield | C1(=CC=C(C=C1)C1(C(=C(C(O1)=O)OCC1=CC=CC=C1)O)C1=CC=CC=C1)C1=CC=CC=C1 | C29H22O4
